US08426447B2
4-Bromophenol (0.87 g, 5 mmol), Cs2CO3 (1.6 g, 5 mmol), CuOTf toluene complex (2:1) (0.0625 mmol, 5 mol % Cu, 33 mg), ethyl acetate (0.013 ml, 0.125 mmol) were added to a solution of 2-bromo-4-methylbenzoic acid (0.86 g, 5 mmol) in toluene (2 mL) in a sealed tube. The reaction mixture was purged with N2, and was heated to 110° C. until the aryl halide was consumed as determined by LC-MS (48 h). After cooling to rt, the mixture was filtered through a Celite plug. The Celite plug was washed with EtOAc. The mixture was acidified by 1N HCl, and extracted w/EtOAc. The combined organic phases were washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated. This residue was purified via column chromatography on silica gel (gradient elution with 0-10% MeOH/DCM) to afford 2-(4-bromophenoxy)-4-methylbenzoic acid, MS m/z=309.1 [M+H]+. Calc'd for C14H11BrO3: 307.1.

reactant | 4-Bromophenol | 5 mmol, 0.87 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | Cs2CO3 | 5 mmol, 1.6 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | ethyl acetate | 0.125 mmol, 0.013 ml | C(C)(=O)OCC | C4H8O2
reactant | 2-bromo-4-methylbenzoic acid | 5 mmol, 0.86 g | BrC1=C(C(=O)O)C=CC(=C1)C | C8H7BrO2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(4-bromophenoxy)-4-methylbenzoic acid | BrC1=CC=C(OC2=C(C(=O)O)C=CC(=C2)C)C=C1 | C14H11BrO3
